US06821967B2
9-{4-[4-(6-chloro-benzothiazol-2-yl)-[1.4]diazepan-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 6-chloro-2-[1.4]diazepan-1-yl-benzothiazole.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 6-chloro-2-[1.4]diazepan-1-yl-benzothiazole | ClC1=CC2=C(N=C(S2)N2CCNCCC2)C=C1 | C12H14ClN3S
product | 9-{4-[4-(6-chloro-benzothiazol-2-yl)-[1.4]diazepan-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CCC1)C=1SC2=C(N1)C=CC(=C2)Cl)(F)F | C32H32ClF3N4OS
